US08252937B2
4-(4-Hydroxy-phenoxy)-benzoic acid methyl ester 4-(4-Hydroxy-phenoxy)-benzoic acid methyl ester (D24)
Boron fluoride-dimethyl sulfide complex [CAS: 353-43-5] (15.64 ml, 148.67 mmol) was added dropwise to a stirred solution of methyl 4-(4′-methoxyphenoxy)benzoate [CAS: 38342-84-6] (1.28 g, 4.9 mmol) in DCM (100 ml) cooled in an ice-water bath under nitrogen atmosphere. The resulting mixture was stirred for 5 hours. The reaction mixture was washed with water and then extracted with DCM. The organic layer was separated and dried (Na2SO4) and the solvent was evaporated till dryness. The residue was purified by column chromatography (silica gel; 0-10% EtOAc/DCM as eluent). The desired fractions were collected and evaporated in vacuo to yield intermediate D24 (0.89 g, 74%).

reactant | Boron fluoride-dimethyl sulfide complex | 148.67 mmol, 15.64 ml | [B-](F)(F)(F)[S+](C)C | C2H6BF3S
reactant | methyl 4-(4′-methoxyphenoxy)benzoate | 4.9 mmol, 1.28 g | COC1=CC=C(OC2=CC=C(C(=O)OC)C=C2)C=C1 | C15H14O4
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Hydroxy-phenoxy)-benzoic acid methyl ester 4-(4-Hydroxy-phenoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC1=CC=C(C=C1)O)=O.COC(C1=CC=C(C=C1)OC1=CC=C(C=C1)O)=O | 2C14H12O4
